US07435823B2
A stainless steel cylinder was charged with 4-chloro-3-iodo-6,7-dimethoxyquinoline (0.200 g, 0.572 mmol), palladium(II) acetate (0.013 g, 0.057 mmol), 1,3-bis(diphenylphosphino)propane (0.047 g, 0.11 mmol), DMF (2 mL), and 1,1,1,3,3,3-hexamethyldisilazane S (0.37 g, 0.48 mL, 2.3 mmol). The cylinder was sealed and pressurized with CO gas at 30 psi. The system was heated at 100° C. for 1.5 h and then cooled to RT. The mixture was concentrated to afford an orange solid. This material was triturated with dichloromethane and the resulting precipitate was filtered and dried to afford 4-chloro-6,7-dimethoxyquinoline-3-carboxamide as an off-white solid. MS (ESI, pos. ion) m/z: 267.0 (M+H). Mass Calc'd for C12H11ClN2O3: 266.

reactant | 4-chloro-3-iodo-6,7-dimethoxyquinoline | 0.572 mmol, 0.200 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)I | C11H9ClINO2
reactant | 1,3-bis(diphenylphosphino)propane | 0.11 mmol, 0.047 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.057 mmol, 0.013 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-6,7-dimethoxyquinoline-3-carboxamide | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
